US05514696
A. 4-isobutyl-2-nitro-phenylboronic acid
To a suspension of 4-isobutyl-phenylboronic acid (0.9 g, 5.05 mmol) in acetic anhydride (9 mL) at -10° C., fuming nitric acid (0.4 mL) was added over 10 minutes. The mixture was stirred for 1 hour, warmed to room temperature and stirred for an additional 1.5 hours. The clear orange solution was added to 100 mL of ice, stirred for 3 hours and azeotroped with water (4×100 mL). The residue was partitioned between 25 mL each of ether and water and the ether layer was dried and evaporated to provide 0.75 g of yellow solid. The solid was dissolved in ethyl acetate (25 mL) and the solution was extracted with 1N aqueous sodium hydroxide (2×25 mL). The combined aqueous extracts were acidified to pH 2 using 2N aqueous hydrochloric acid and extracted with ethyl acetate (2×25 mL). The combined organic extracts were washed once with water, dried and evaporated to provide 0.63 g of light yellow solid. Reverse phase preparative HPLC on a 30×500 mm ODS S10 column using 76% solvent A (90% MeOH, 10% H2O, 0.1% TFA) and 24% solvent B (10% MeOH, 90% H2O, 0.1% TFA) provided 0.16 g of compound A as light yellow solid.

reactant | 4-isobutyl-phenylboronic acid | 5.05 mmol, 0.9 g | C(C(C)C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | nitric acid | 0.4 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 9 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 4-isobutyl-2-nitro-phenylboronic acid | 0.75 g | C(C(C)C)C1=CC(=C(C=C1)B(O)O)[N+](=O)[O-] | C10H14BNO4
